2118-04-26 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2118-4-25**] 09:59 PM
 PICC LINE - START [**2118-4-25**] 10:03 PM
 BLOOD CULTURED - At [**2118-4-26**] 04:27 AM
   - CT Abd/Pelvis - poor image quality, diffuse pancreatic edema,
   possible necrosis, liver looks "ok"
   - Following commands on mild sedation
   -CXR - likely pleural effusions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-4-26**] 12:00 AM
   Fentanyl - [**2118-4-26**] 05:27 AM
   Midazolam (Versed) - [**2118-4-26**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 84 (81 - 103) bpm
   BP: 136/93(102) {98/62(70) - 143/101(108)} mmHg
   RR: 27 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     20 mL
                                                                    602 mL
   PO:
             TF:
   IVF:
                                                                     20 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                    135 mL
   Urine:
                                                                    270 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.47/46/107/31/8
   Ve: 12.1 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   526 K/uL
   9.5 g/dL
   154 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.4 mEq/L
   10 mg/dL
   102 mEq/L
   140 mEq/L
   29.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
   WBC
   10.5
   Hct
   29.1
   Plt
   526
   Cr
   0.6
   TCO2
   34
   Glucose
   154
   Other labs: PT / PTT / INR:14.5/23.2/1.3, ALT / AST:53/53, Alk Phos / T
   Bili:116/0.7, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # Respiratory failure: It is unclear from the record what has been the
   barrier to weaning off of the vent. Per report CXR clear except for
   bilateral pleural effusions with negative culture on pleural fluid. CXR
   with opacities resembling pleural effusions. He is 10 kilograms over
   his OSH admission weight. Admission ABG indicated mild alkalosis and
   fair oxygenation implying extraparenchymal fluid collection. RSBI on
   [**4-25**] is 76.
   - repeat CXR, ABG
   - wean sedation and attempt to wean to pressure support
   - giving trial of lasix to clarify role of pulmonary edema in his
   failure
   .
   # Fevers: Exhaustive w/u at OSH (bcx, ucx, [**Female First Name (un) **], LP, pseudocyst
   drainage). Will continue to follow their culture data. ?infected
   pseudocyst that has yet to be drained. Other noninfectious
   possibilities: malignancy (h/o renal mass, though not commented on on
   abdominal CT scan), drug fever (haldol, seroquel, lexapro),
   inflammatory condition.
   - Stop all antibiotics and monitor fever curve
   - Restart IV Vanco/Meropenem if decompensates --> indication is
   necrotizing pancreatitis
   - Resend cultures (blood, urine)
   - Send stool for C.dif
   - Surgery c/s in am re: ?need for further aspiration of pseudocyst
   - place PICC
   - hold psych meds including seroquel, haldol, lexapro
   .
   # Acute pancreatitis: Per OSH records lipase now <50. Abdomen is soft
   on exam. ?evolving pseudocyst compressing stomach on most recent CT Abd
   from OSH
   - NPO for now; place nasojejunal tube after [**Doctor First Name 91**] consult, start feeds
   if medical management
   - surgery consult
   - repeat labs now
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: Subcutaneous heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-04-26 09:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Responds to voice commands.
   Denies pain in abd.
   Indicates pain in left foot.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2118-4-26**] 12:00 AM
   Fentanyl - [**2118-4-26**] 05:27 AM
   Midazolam (Versed) - [**2118-4-26**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-17**] Mild
   Pain location: Left foot >>>  abd pain
   Flowsheet Data as of  [**2118-4-26**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 84 (81 - 103) bpm
   BP: 140/87(98) {98/62(70) - 143/101(108)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     20 mL
                                                                    688 mL
   PO:
             TF:
   IVF:
                                                                     20 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                    270 mL
                                                                    155 mL
   Urine:
                                                                    270 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 644 (408 - 644) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: 7.47/46/107/31/8
   Ve: 14 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand, Marked
   ecchymosis left foot, eschar over dorsum of left foot
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   526 K/uL
   154 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.4 mEq/L
   10 mg/dL
   102 mEq/L
   140 mEq/L
   29.1 %
   10.5 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
   WBC
   10.5
   Hct
   29.1
   Plt
   526
   Cr
   0.6
   TCO2
   34
   Glucose
   154
   Other labs: PT / PTT / INR:14.5/23.2/1.3, ALT / AST:53/53, Alk Phos / T
   Bili:116/0.7, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pain (foot, abd),
   intraabdominal inflammation, left pleural effusion, obesity.  No
   current evidence for acute pneumonia.  Maintain mechanical ventilation,
   monitor ABG, monitor RR, monitor SaO2.  F/U CXR.  Daily wake up,
   monitor RSBI.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Consider repeat imaging.
   Continue supportive care.  General Surgery to evaluate.
   FEVERS -- persistent.  Numerous concerns, including panreatitis,
   pancreatitic pseudocyst, bacteremia (strept), UTI (Klebsiella),
   line-related, C. diff, medications/antibiotics.  Monitor, currently off
   antimicrobials.  Resight line.  F/U cultures.
   NUTRITIONAL SUPPORT -- would initiate enteral feedings.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- would check x-ray, Orthopedic consult.
   EtOH ABUSE --
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2118-04-27 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2118-4-26**] 03:50 PM
 FEVER - 101.5
F - [**2118-4-26**] 09:00 PM
   - ECHO: No obvious vegetations; hyperdynamic left ventricle; EF > 80%
   - Ortho c/s: got repeat XRs, attg recs pending
   - Surgery c/s: repeat CT torso
   - gave lasix 40 mg IV x 1 for poor UOP and signs of volume overload:
   FeUrea 12%, FeNa 0.02%; didn't give any additional lasix as patient
   appears to be intravascularly volume depleted
   - CT torso: distal PE, pancreatic necrosis + large pseudocyst noted
   - febrile to 101.5 overnight; started IV meropenem (needs ID approval
   in AM)
   - started heparin gtt for PE (without bolus given concern for bleeding
   risk)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-27**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2118-4-26**] 10:10 AM
   Heparin Sodium (Prophylaxis) - [**2118-4-26**] 05:00 PM
   Midazolam (Versed) - [**2118-4-27**] 06:55 AM
   Fentanyl - [**2118-4-27**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-27**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.3
   HR: 92 (73 - 102) bpm
   BP: 153/83(100) {119/72(85) - 169/105(116)} mmHg
   RR: 12 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,200 mL
                                                                    375 mL
   PO:
             TF:
   IVF:
                                                                  1,200 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    390 mL
   Urine:
                                                                  2,350 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 850 (408 - 933) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 9.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   534 K/uL
   9.0 g/dL
   118 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   13 mg/dL
   105 mEq/L
   145 mEq/L
   29.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
   WBC
   10.5
   8.7
   Hct
   29.1
   29.2
   Plt
   526
   534
   Cr
   0.6
   0.7
   0.6
   TCO2
   34
   Glucose
   154
   127
   118
   Other labs: PT / PTT / INR:14.1/35.0/1.2, ALT / AST:56/64, Alk Phos / T
   Bili:127/1.0, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # Respiratory failure: It is unclear from the record what has been the
   barrier to weaning off of the vent. Per report CXR clear except for
   bilateral pleural effusions with negative culture on pleural fluid. CXR
   with opacities resembling pleural effusions. He is 10 kilograms over
   his OSH admission weight. Admission ABG indicated mild alkalosis and
   fair oxygenation implying extraparenchymal fluid collection.  Diuresed
   [**4-26**] with lasix.  RSBI 22 on the AM of [**4-27**] but SBT yielded
   destaturations to 80
s after an hour.  Barriers are likely PE,
   Effusions and restrictive physiology (elevated diaphragm, pseudocyst)
   - RSBI low, failed SBT (desats to 80
   - Daily SBT
   - extubate to Bipap when ready
   - continue Heparin for PE, D1 = [**4-26**]
   .
   # fevers: Exhaustive w/u at OSH (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst
   drainage). Will continue to follow their culture data. ?infected
   pseudocyst that has yet to be drained. Other noninfectious
   possibilities: malignancy (h/o renal mass, though not commented on on
   abdominal CT scan), drug fever (haldol, seroquel, lexapro),
   inflammatory condition.
   - Restarted IV meropenem as patient spiked fevers. D1 = [**4-26**]
   - Resend cultures (blood, urine)
   - Send stool for C.dif
   - f/u Surgery recs
   - OSH PICC made to flush with tPA
   - hold psych meds including seroquel, haldol, lexapro
   .
   # Acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - ask Surgery if OK to place NJ tube for feeds, or to keep NPO
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-04-27 09:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Meropenem resumed.
   CT scan revealed pancreatitc necrosis, pseudocyst.  Incidental ventral
   hernia with loop of bowel.
   CT chest (contrast) demonstrates evidence for pulmonary embolism RLL,
   left effusion --> now on Heparin.
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-27**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Heparin Sodium - 2,500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2118-4-26**] 10:10 AM
   Heparin Sodium (Prophylaxis) - [**2118-4-26**] 05:00 PM
   Midazolam (Versed) - [**2118-4-27**] 06:55 AM
   Fentanyl - [**2118-4-27**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-15**] Minimal
   Pain location: Neck
   Flowsheet Data as of  [**2118-4-27**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.3
   HR: 92 (73 - 102) bpm
   BP: 153/83(100) {119/72(85) - 169/105(116)} mmHg
   RR: 12 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,200 mL
                                                                    447 mL
   PO:
             TF:
   IVF:
                                                                  1,200 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    390 mL
   Urine:
                                                                  2,350 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 424 (424 - 933) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 14 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   534 K/uL
   118 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.4 mEq/L
   13 mg/dL
   105 mEq/L
   145 mEq/L
   29.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
   WBC
   10.5
   8.7
   Hct
   29.1
   29.2
   Plt
   526
   534
   Cr
   0.6
   0.7
   0.6
   TCO2
   34
   Glucose
   154
   127
   118
   Other labs: PT / PTT / INR:14.1/35.0/1.2, ALT / AST:56/64, Alk Phos / T
   Bili:127/1.0, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pulmonary embolism,
   intraabdominal inflammation, left pleural effusion, pain (L foot,
   abdomen), and obesity.  No current evidence for acute pneumonia.
   Maintain mechanical ventilation, monitor ABG, monitor RR, monitor
   SaO2.  F/U CXR.  Daily wake up, monitor RSBI.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Consider repeat imaging.
   Continue supportive care.  General Surgery to evaluate.
   PULMONARY EMBOLISM -- likely responsible for fevers and respiratory
   failure.
   FEVERS -- persistent.  Attributed to panreatitis, pancreatitic
   pseudocyst, bacteremia (strept), UTI (Klebsiella), and now evidence for
   pulmonary embolism.  Monitor.
   NUTRITIONAL SUPPORT -- would initiate enteral feedings.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- would check x-ray, Orthopedic consult in progress.
   EtOH ABUSE -- chronic.  Remains on benzodiazepines.  Beyond window for
   DTs.
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2118-04-28 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - respiratory failure likely due to PE - on heparin gtt, no bolus,
   tachy and SOB on SBT, dropped sat but recovered after PEEP, will hold
   off for now, need to do SBT again, eval for extubation.
   - Nutriention cs ordered, NJ feeding tube placed.
   - ortho - hard boot, follow up outpatient
   - Gen. surgery - okay for enteral feed and heparin okay, no surgery
   right now.
   - Heparin subtherapeutic, sliding scale increased to accomondate.
   - CT final read: IMPRESSION: 1. Filling defect within the right lower
   lobe and middle lobe pulmonary arteries are concerning for pulmonary
   embolism. 2. Pancreatitis with extensive peripancreatic fluid.
   Pancreatic necrosis within the the head.  3. Large pancreatic
   pseudocyst anterior to the pancreas which is stable since
   outside hospital study. 4. Small ventral hernia containing loops of
   small bowel with no evidence of obstruction. 5. Small left pleural
   effusion with adjacent atelectasis.
 FLUOROSCOPY - At [**2118-4-27**] 04:00 PM
 BLOOD CULTURED - At [**2118-4-27**] 11:00 PM
   picc line
 SPUTUM CULTURE - At [**2118-4-27**] 11:00 PM
 URINE CULTURE - At [**2118-4-27**] 11:00 PM
 BLOOD CULTURED - At [**2118-4-27**] 11:30 PM
   venipuncture
 FEVER - 101.5
F - [**2118-4-27**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-28**] 04:16 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Heparin Sodium - 3,200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2118-4-27**] 12:05 PM
   Fentanyl - [**2118-4-27**] 12:05 PM
   Heparin Sodium - [**2118-4-27**] 06:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-28**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.8
   HR: 85 (76 - 106) bpm
   BP: 162/77(98) {97/50(61) - 171/105(120)} mmHg
   RR: 10 (8 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155.5 kg (admission): 147.3 kg
             Total In:
                                                                  1,713 mL
                                                                    461 mL
   PO:
             TF:
   IVF:
                                                                  1,493 mL
                                                                    461 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    255 mL
   Urine:
                                                                  1,000 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 732 (424 - 1,059) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: ///31/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   534 K/uL
   9.0 g/dL
   125 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   14 mg/dL
   107 mEq/L
   146 mEq/L
   29.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
   WBC
   10.5
   8.7
   Hct
   29.1
   29.2
   Plt
   526
   534
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   34
   Glucose
   154
   127
   118
   125
   Other labs: PT / PTT / INR:14.9/79.3/1.3, ALT / AST:56/64, Alk Phos / T
   Bili:127/1.0, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # Respiratory failure: It is unclear from the record what has been the
   barrier to weaning off of the vent. Per report CXR clear except for
   bilateral pleural effusions with negative culture on pleural fluid. CXR
   with opacities resembling pleural effusions. He is 10 kilograms over
   his OSH admission weight. Admission ABG indicated mild alkalosis and
   fair oxygenation implying extraparenchymal fluid collection.  Diuresed
   [**4-26**] with lasix.  RSBI 22 on the AM of [**4-27**] but SBT yielded
   destaturations to 80
s after an hour.  Barriers are likely PE,
   Effusions and restrictive physiology (elevated diaphragm, pseudocyst)
   - RSBI low, failed SBT (desats to 80s after ~1 hr)
   - Daily SBT
   - extubate to Bipap when ready
   - continue Heparin for PE, D1 = [**4-26**]
   - start methadone to decrease dependence on fentanyl
   .
   # fevers: Most likely from pancreatic necrosis. Exhaustive w/u at OSH
   (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage). Will continue to follow
   their culture data. ?infected pseudocyst that has yet to be drained.
   Other noninfectious possibilities: malignancy (h/o renal mass, though
   not commented on on abdominal CT scan), drug fever (haldol, seroquel,
   lexapro), inflammatory condition.
   - Restarted IV meropenem as patient spiked fevers. D1 = [**4-26**]
   - Resend cultures (blood, urine)
   - Send stool for C.dif
   - f/u Surgery recs
   - hold psych meds including seroquel, haldol, lexapro --> consider
   haldol if sedation is an issue
   .
   # Acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - continue tube feeds
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2118-04-28 11:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Indicates to be without dyspnea.  Indicates to experience some
   epigastric pain.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-28**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Heparin Sodium - 3,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2118-4-27**] 06:17 PM
   Midazolam (Versed) - [**2118-4-28**] 10:48 AM
   Fentanyl - [**2118-4-28**] 10:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-4-28**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 39
C (102.2
   Tcurrent: 39
C (102.2
   HR: 103 (76 - 109) bpm
   BP: 179/108(128) {97/50(61) - 182/108(128)} mmHg
   RR: 31 (8 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155.5 kg (admission): 147.3 kg
             Total In:
                                                                  1,713 mL
                                                                    858 mL
   PO:
             TF:
   IVF:
                                                                  1,493 mL
                                                                    858 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    775 mL
   Urine:
                                                                  1,000 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    713 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 430 (430 - 1,059) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: ///31/
   Ve: 16.3 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand, Left foot
   ecchymosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   509 K/uL
   125 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.5 mEq/L
   14 mg/dL
   107 mEq/L
   146 mEq/L
   28.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
   WBC
   10.5
   8.7
   8.6
   Hct
   29.1
   29.2
   28.0
   Plt
   526
   534
   509
   Cr
   0.6
   0.7
   0.6
   0.6
   TCO2
   34
   Glucose
   154
   127
   118
   125
   Other labs: PT / PTT / INR:14.9/79.3/1.3, ALT / AST:56/64, Alk Phos / T
   Bili:127/1.0, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pulmonary embolism,
   intraabdominal inflammation, left pleural effusion, pain (L foot,
   abdomen), and obesity.  No current evidence for acute pneumonia.
   Remains hypoxemic, requiring high FiO2 --> hope to work towards 40%
   prior to extubation trial.   Maintain mechanical ventilation, monitor
   ABG, monitor RR, monitor SaO2.  F/U CXR.  Daily wake up, monitor RSBI.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Consider repeat imaging.
   Continue supportive care.  General Surgery to evaluate.
   PULMONARY EMBOLISM -- likely responsible for fevers and respiratory
   failure.
   FEVERS -- persistent.  Attributed to panreatitis (necrosis),
   pancreatitic pseudocyst, bacteremia (strept), UTI (Klebsiella), and now
   evidence for pulmonary embolism.  Monitor.  Currently on Meropenem
   alone.
   HYPOKALEMIA -- replete to K >4.0
   NUTRITIONAL SUPPORT -- would initiate enteral feedings via post-pyloric
   tube.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- Fracture by radiographs.  Orthopedic consult
   recommended boot in place.
   EtOH ABUSE -- chronic.  Remains on benzodiazepines.  Beyond window for
   DTs.
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-04-29 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2118-4-28**] 08:00 AM
   - FiO2 of 50% on SBT --> no extubation. Waiting for FiO2 requirement to
   drop
   - Starting Methadone to wean fentanyl
   - had apneic episodes on CPAP, put back on CMV
   - treated Hypernatremia with increased free water flushes, remember to
   turn down amount of flush when normalized
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-29**] 04:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Heparin Sodium - 3,200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2118-4-28**] 10:48 AM
   Fentanyl - [**2118-4-28**] 11:06 PM
   Methadone Hydrochloride - [**2118-4-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-29**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 39
C (102.2
   Tcurrent: 38.6
C (101.4
   HR: 81 (81 - 108) bpm
   BP: 116/69(79) {103/56(67) - 181/108(128)} mmHg
   RR: 15 (9 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,691 mL
                                                                    647 mL
   PO:
             TF:
             151 mL
   IVF:
                                                                  1,691 mL
                                                                    496 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    255 mL
   Urine:
                                                                  1,105 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    386 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 761 (430 - 830) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 34
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 96%
   ABG: ///32/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   564 K/uL
   8.5 g/dL
   118 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.4 mEq/L
   10 mg/dL
   110 mEq/L
   148 mEq/L
   27.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
                             [**2118-4-29**]  04:30 AM
   WBC
   10.5
   8.7
   8.6
   9.6
   Hct
   29.1
   29.2
   28.0
   27.2
   Plt
   526
   534
   509
   564
   Cr
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   34
   Glucose
   154
   127
   118
   125
   118
   Other labs: PT / PTT / INR:15.7/62.2/1.4, ALT / AST:41/40, Alk Phos / T
   Bili:101/0.0, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # Respiratory failure: It is unclear from the record what has been the
   barrier to weaning off of the vent. Per report CXR clear except for
   bilateral pleural effusions with negative culture on pleural fluid. CXR
   with opacities resembling pleural effusions. He is 10 kilograms over
   his OSH admission weight. Admission ABG indicated mild alkalosis and
   fair oxygenation implying extraparenchymal fluid collection.  Diuresed
   [**4-26**] with lasix.  RSBI 22 on the AM of [**4-27**] but SBT yielded
   destaturations to 80
s after an hour.  Barriers are likely PE,
   Effusions and restrictive physiology (elevated diaphragm, pseudocyst)
   - RSBI low, failed SBT (desats to 80s after ~1 hr)
   - Daily SBT
   - extubate to Bipap when ready
   - continue Heparin for PE, D1 = [**4-26**]
   - start methadone to decrease dependence on fentanyl
   - per pharmacy, could consider ketamine gtt for pain relief without
   causing sedation
   .
   # fevers: Most likely from pancreatic necrosis. Exhaustive w/u at OSH
   (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage). Will continue to follow
   their culture data. ?infected pseudocyst that has yet to be drained.
   Other noninfectious possibilities: malignancy (h/o renal mass, though
   not commented on on abdominal CT scan), drug fever (haldol, seroquel,
   lexapro), inflammatory condition.
   - Restarted IV meropenem as patient spiked fevers. D1 = [**4-26**]
   - Resend cultures (blood, urine)
   - Send stool for C.dif
   - f/u Surgery recs
   - hold psych meds including seroquel, haldol, lexapro --> consider
   haldol if sedation is an issue
   .
   # Acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - continue tube feeds
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2118-4-29**] 12:09 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-04-29 10:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Lower doses of sedatives/narcotics, started on Methadone in attempt to
   wean sedation infusions.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-29**] 09:54 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Heparin Sodium - 3,200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2118-4-28**] 10:48 AM
   Fentanyl - [**2118-4-28**] 11:06 PM
   Methadone Hydrochloride - [**2118-4-29**] 09:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Flowsheet Data as of  [**2118-4-29**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.7
C (101.6
   HR: 89 (81 - 104) bpm
   BP: 111/63(74) {103/56(67) - 179/108(115)} mmHg
   RR: 15 (9 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,692 mL
                                                                  2,253 mL
   PO:
             TF:
             238 mL
   IVF:
                                                                  1,692 mL
                                                                  1,775 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    395 mL
   Urine:
                                                                  1,105 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    387 mL
                                                                  1,858 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 761 (480 - 830) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 34
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 96%
   ABG: ///32/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   564 K/uL
   118 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.4 mEq/L
   10 mg/dL
   110 mEq/L
   148 mEq/L
   27.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
                             [**2118-4-29**]  04:30 AM
   WBC
   10.5
   8.7
   8.6
   9.6
   Hct
   29.1
   29.2
   28.0
   27.2
   Plt
   526
   534
   509
   564
   Cr
   0.6
   0.7
   0.6
   0.6
   0.5
   TCO2
   34
   Glucose
   154
   127
   118
   125
   118
   Other labs: PT / PTT / INR:15.7/62.2/1.4, ALT / AST:41/40, Alk Phos / T
   Bili:101/0.0, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:278 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pulmonary embolism,
   intraabdominal inflammation, left pleural effusion, pain (L foot,
   abdomen), and obesity.  No current evidence for acute pneumonia.
   Remains hypoxemic, requiring high FiO2 --> hope to work towards 40%
   prior to extubation trial.   Maintain mechanical ventilation, monitor
   ABG, monitor RR, monitor SaO2.  F/U CXR.  Daily wake up, monitor RSBI.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Consider repeat imaging.
   Continue supportive care.  General Surgery to evaluate.
   PULMONARY EMBOLISM -- likely responsible for fevers and respiratory
   failure.  Continue iv heparin
   FEVERS -- persistent.  Attributed to panreatitis (necrosis),
   pancreatitic pseudocyst, bacteremia (strept), UTI (Klebsiella), and now
   evidence for pulmonary embolism.  Monitor.  Currently on Meropenem
   alone.
   HYPERNATREMIA -- increase free water.
   HYPOKALEMIA -- replete to K >4.0
   NUTRITIONAL SUPPORT -- would initiate enteral feedings via post-pyloric
   tube.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- Fracture by radiographs.  Orthopedic consult
   recommended boot in place.
   EtOH ABUSE -- chronic.  Remains on benzodiazepines.  Beyond window for
   DTs.
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2118-4-29**] 09:30 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending:
   If no significant progress over next few days, would proceed with
   trachostomy tube and PEG placement.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2118-4-29**] 17:21 ------

2118-04-30 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2118-4-30**] 04:52 AM
 URINE CULTURE - At [**2118-4-30**] 04:52 AM
 FEVER - 102.6
F - [**2118-4-30**] 04:00 AM
   - wean off fentanyl and versed, then titrate methadone; pharmacy raised
   the possibility of ketamine gtt to provide pain relief without sedation
   if fentanyl doses become very high, but we decided against it for now
   - d/ced IV meropenem because this might be drug fever
   - uptitrated SSI
   - fluid bolus when UOP dropped off, also to treat likely hypovolemic
   hypernatremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-29**] 09:54 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2118-4-29**] 02:00 PM
   Midazolam (Versed) - [**2118-4-29**] 09:30 PM
   Methadone Hydrochloride - [**2118-4-30**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 83 (76 - 93) bpm
   BP: 141/86(99) {105/58(70) - 188/87(106)} mmHg
   RR: 15 (7 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  3,654 mL
                                                                    404 mL
   PO:
             TF:
                                                                    395 mL
                                                                     33 mL
   IVF:
                                                                  2,349 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    425 mL
   Urine:
                                                                  1,155 mL
                                                                    425 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,199 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 589 (440 - 652) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 110
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 95%
   ABG: ///35/
   Ve: 7.4 L/min
   Physical Examination
   GEN: intubated, very somnolent but arousable
   CV: RRR
   RESP: rhonchorous
   ABD: obese, S, tender, +BS
   Labs / Radiology
   456 K/uL
   8.1 g/dL
   125 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.1 mEq/L
   11 mg/dL
   102 mEq/L
   141 mEq/L
   26.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
                             [**2118-4-29**]  04:30 AM
                             [**2118-4-29**]  02:51 PM
                             [**2118-4-30**]  04:43 AM
   WBC
   10.5
   8.7
   8.6
   9.6
   7.9
   Hct
   29.1
   29.2
   28.0
   27.2
   24.9
   26.2
   Plt
   526
   534
   509
   564
   456
   Cr
   0.6
   0.7
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   34
   Glucose
   154
   127
   118
   125
   118
   212
   125
   Other labs: PT / PTT / INR:15.2/80.7/1.3, ALT / AST:43/40, Alk Phos / T
   Bili:98/0.6, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:243 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # respiratory failure - Barriers to extubation are likely sedation, PE,
   effusions, and restrictive physiology (elevated diaphragm, pseudocyst).
   - RSBI low, failed SBT (desats to 80s after ~1 hr) likely [**2-15**] sedation
   - Daily SBT
   - continue Heparin for PE, D1 = [**4-26**]
   - start to wean methadone and reassess pain requirements, sedation
   - per pharmacy, could consider ketamine gtt for pain relief without
   causing sedation if pain relief is intractable without significant
   sedation
   .
   # fevers - Thought to be [**2-15**] pancreatic necrosis vs. drug fever.
   Exhaustive w/u at OSH (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage) was
   negative for infection.  ?infected pseudocyst that has yet to be
   drained. Other noninfectious possibilities: malignancy (h/o renal mass,
   though not commented on on abdominal CT scan), drug fever, inflammatory
   condition.
   - d/ced IV meropenem
   - Resend cultures (blood, urine)
   - Send stool for C.diff
   - f/u Surgery recs
   - hold psych meds including seroquel, haldol, lexapro --> consider
   haldol if sedation is an issue
   .
   # acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - continue tube feeds if tolerated without significant residuals
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   I examined the patient and was present for the key portion of the
   services provided. I have reviewed Dr [**Last Name (STitle) 12690**]
s note above and agree
   with his findings and plan of care.  Mr [**Known lastname 12575**] has pancreatitis,
   pancreatic pseudocysts, small pulmonary emboli, significant abdominal
   pain, persistent fevers, ongoing resp failure, and large left pleural
   effusion, likely from his pancreatitis.  His resp failure is most
   likely from the combination of a large tense abdomen, pleural effusion,
   fevers, and sedation for pain.  Today he seems more comfortable on
   methadone and I would propose a gradual lowering of its dose. I would
   also change him from CMV to PSV to see if we can gradually get him to
   take over more ventilatory work.  I agree fevers are possibly drug
   induced as his WBC is only 7600, and I concur with holding Meropenem.
   His necrotizing pancreatitis could also cause fever, but I would have
   expected more signs of inflammation (leukocytosis, acidosis, etc).  45
   min spent in the care of this critically ill patient.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2118-4-30**] 03:09 PM ------

2118-05-01 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.1
F - [**2118-4-30**] 04:00 PM
   - decreased methadone
   - fever greater than 101, ice packed
   - desats to mid-low 90s with turning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-29**] 09:54 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 3,272 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2118-5-1**] 12:45 AM
   Methadone Hydrochloride - [**2118-5-1**] 02:13 AM
   Heparin Sodium - [**2118-5-1**] 05:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-1**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.3
C (101
   HR: 82 (73 - 90) bpm
   BP: 129/72(85) {119/68(80) - 164/97(111)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,398 mL
                                                                    328 mL
   PO:
             TF:
                                                                     33 mL
   IVF:
                                                                  1,035 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    355 mL
   Urine:
                                                                  1,065 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    333 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Sao2 < 90%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 91%
   ABG: ///40/
   Ve: 6.9 L/min
   Physical Examination
   GEN: intubated, very somnolent but arousable
   CV: RRR
   RESP: rhonchorous
   ABD: obese, S, tender, +BS
   Labs / Radiology
   402 K/uL
   7.8 g/dL
   111 mg/dL
   0.5 mg/dL
   40 mEq/L
   3.9 mEq/L
   9 mg/dL
   102 mEq/L
   145 mEq/L
   25.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2118-4-25**]  11:45 PM
                             [**2118-4-26**]  12:27 AM
                             [**2118-4-26**]  06:10 PM
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
                             [**2118-4-29**]  04:30 AM
                             [**2118-4-29**]  02:51 PM
                             [**2118-4-30**]  04:43 AM
                             [**2118-5-1**]  03:59 AM
   WBC
   10.5
   8.7
   8.6
   9.6
   7.9
   6.8
   Hct
   29.1
   29.2
   28.0
   27.2
   24.9
   26.2
   25.0
   Plt
   526
   534
   509
   [**Telephone/Fax (3) 12706**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   34
   Glucose
   154
   127
   118
   125
   118
   212
   125
   111
   Other labs: PT / PTT / INR:15.6/58.4/1.4, ALT / AST:39/40, Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:238 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # respiratory failure - Barriers to extubation are likely sedation, PE,
   effusions, and restrictive physiology (elevated diaphragm, pseudocyst).
   - start to wean methadone and use versed bolus
   - RSBI low, failed SBT, has apnic episodes
   - Daily SBT
   - continue Heparin for PE, D1 = [**4-26**]
   - per pharmacy, could consider ketamine gtt for pain relief without
   causing sedation if pain relief is intractable without significant
   sedation
   .
   # fevers - Thought to be [**2-15**] pancreatic necrosis vs. drug fever.
   Exhaustive w/u at OSH (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage) was
   negative for infection.  ?infected pseudocyst that has yet to be
   drained. Other noninfectious possibilities: malignancy (h/o renal mass,
   though not commented on on abdominal CT scan), drug fever, inflammatory
   condition.
   - d/ced IV meropenem
   - Resend cultures (blood, urine)
   - Send stool for C.diff
   - f/u Surgery recs
   - hold psych meds including seroquel, haldol, lexapro --> consider
   haldol if sedation is an issue
   .
   # acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - continue tube feeds if tolerated without significant residuals
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined Mr [**Known lastname 12575**] and was present for the key portion
   of the services provided.  I have reviewed the note by Dr [**First Name (STitle) 9683**] and
   agree with his findings and plan of care.  Mr [**Known lastname 12575**] has now been
   intubated for 3 weeks, and unless substantial progress toward
   extubation can be made this next week, he should be considered for a
   trache. Right now his obstacles to weaning are his sedation and
   occasional agitation, a lg left pleural effusion, his abdominal
   distention, and his fevers.  His abdominal exam seems benign enough to
   decrease both Versed and Methadone. We will consider using prn Haldol
   for agitation.  His ABGs today show hypercarbia (PC02 of 60) even on
   vent, and decreasing sedation should help this also.  If, once more
   awake he still fails RSBI and SBT
s an effort should be made to tap off
   his left effusion, which is no doubt from his pancreatitis.  He
   continues on heparin for his PE, though is needing quite high doses.
   45min spent in the care of this critically ill pt.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2118-5-1**] 01:00 PM ------

2118-05-02 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
F - [**2118-5-2**] 02:00 AM
   - Somnolent, not interacting: Methadone decreased to q12. Fentanyl and
   Versed dc'd. Haldol given 5 mg x 1 for agitation after dc versed
   - ABG --> worsening CO2, improved by turning up PEEP and Rate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2118-4-29**] 09:54 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2118-5-2**] 01:03 AM
   Methadone Hydrochloride - [**2118-5-2**] 02:02 AM
   Haloperidol (Haldol) - [**2118-5-2**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-2**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 38.7
C (101.6
   HR: 79 (79 - 101) bpm
   BP: 151/86(101) {133/78(92) - 184/121(130)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,346 mL
                                                                    310 mL
   PO:
             TF:
                                                                     51 mL
   IVF:
                                                                  1,055 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    847 mL
   Urine:
                                                                  1,055 mL
                                                                    347 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -409 mL
                                                                   -537 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.42/60/46/37/11
   Ve: 10.2 L/min
   PaO2 / FiO2: 92
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   349 K/uL
   8.2 g/dL
   128 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.5 mEq/L
   8 mg/dL
   105 mEq/L
   148 mEq/L
   25.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
                             [**2118-4-29**]  04:30 AM
                             [**2118-4-29**]  02:51 PM
                             [**2118-4-30**]  04:43 AM
                             [**2118-5-1**]  03:59 AM
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
   WBC
   8.7
   8.6
   9.6
   7.9
   6.8
   6.6
   Hct
   29.2
   28.0
   27.2
   24.9
   26.2
   25.0
   25.8
   Plt
   534
   509
   564
   [**Telephone/Fax (3) 12721**]
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   41
   40
   Glucose
   118
   125
   118
   [**Telephone/Fax (3) 12722**]
   128
   128
   Other labs: PT / PTT / INR:16.8/65.2/1.5, ALT / AST:39/40, Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:238 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # respiratory failure - Barriers to extubation are likely sedation, PE,
   effusions, and restrictive physiology (elevated diaphragm, pseudocyst).
   - start to wean methadone and use versed bolus
   - RSBI low, failed SBT, has apneic episodes
   - Daily SBT
   - d/c heparin (had been started for PE) for potential procedures;
   additionally, no improvement in oxygenation since starting heparin gtt
   - per pharmacy, could consider ketamine gtt for pain relief without
   causing sedation if pain relief is intractable without significant
   sedation
   - assess L pleural effusion for possible thoracentesis
   .
   # fevers - Thought to be [**2-15**] pancreatic necrosis vs. drug fever.
   Exhaustive w/u at OSH (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage) was
   negative for infection.  ?infected pseudocyst that has yet to be
   drained. Other noninfectious possibilities: malignancy (h/o renal mass,
   though not commented on on abdominal CT scan), drug fever, inflammatory
   condition.
   - d/ced IV meropenem
   - continue to follow cultures
   - f/u Surgery recs
   - PICC eval, if PICC can be replaced consider pulling and culturing tip
   - hold psych meds including seroquel, haldol, lexapro --> consider
   haldol if sedation is an issue
   .
   # acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - continue tube feeds if tolerated without significant residuals
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-05-02 10:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pancreatitis
   24 Hour Events:
   Fever 102.6
   Haldol and versed for agitation
   Disconnected self from vent with clear tachypnea
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2118-5-2**] 01:03
   Methadone Hydrochloride - [**2118-5-2**]
   Haloperidol (Haldol) - [**2118-5-2**] 06:17
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-2**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.1
C (102.3
   HR: 92 (79 - 101) bpm
   BP: 141/89 (114) {133/78(92) - 184/121(130)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,346 mL
                                                                    532 mL
   PO:
             TF:
                                                                     51 mL
                                                                     18 mL
   IVF:
                                                                  1,055 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                  1,047 mL
   Urine:
                                                                  1,055 mL
                                                                    547 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -409 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/60/46/37/11
   Ve: 10.2 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant/lat)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   349 K/uL
   128 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.5 mEq/L
   8 mg/dL
   105 mEq/L
   148 mEq/L
   25.8 %
   6.6 K/uL
        [image002.jpg]
                             [**2118-4-27**]  05:54 AM
                             [**2118-4-28**]  06:00 AM
                             [**2118-4-29**]  04:30 AM
                             [**2118-4-29**]  02:51 PM
                             [**2118-4-30**]  04:43 AM
                             [**2118-5-1**]  03:59 AM
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
   WBC
   8.7
   8.6
   9.6
   7.9
   6.8
   6.6
   Hct
   29.2
   28.0
   27.2
   24.9
   26.2
   25.0
   25.8
   Plt
   534
   509
   564
   [**Telephone/Fax (3) 12721**]
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   0.5
   0.5
   0.6
   TCO2
   41
   40
   37
   Glucose
   118
   125
   118
   [**Telephone/Fax (3) 12722**]
   128
   128
   Other labs: PT / PTT / INR:16.8/65.2/1.5, ALT / AST:39/40, Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:238 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Acute Pancreatitis
 appears to have stabilized
   Acute respiratory failure
   - intubated x 3 [**Last Name (LF) 10607**], [**First Name3 (LF) **] benefit from thoracentesis (will d/c heparin x
   4-6 hrs prior)
   - will consult IP to consider trach in next 1-2 days.
   Pulmonary embolism
 therapeutic anticoagulation with IV heparin
   Pain control
 off fentanyl, on methadone which will be d/c
   Fever
 unclear source, pancreatitis, less likely drugs, will assess
   for new picc
   Agitation
 will transition to regular haldol
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2118-5-2**] 08:34 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:  proxy updated
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2118-05-03 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains sedated, but answers to voice.  Appropriate.
   Tolerated SBT this AM x 2 hrs.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 3,272 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2118-5-2**] 05:32 PM
   Midazolam (Versed) - [**2118-5-2**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley, No(t) Dialysis
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-5-3**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.6
C (101.4
   HR: 73 (68 - 106) bpm
   BP: 143/91(102) {131/74(88) - 205/119(134)} mmHg
   RR: 15 (14 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  3,384 mL
                                                                  1,036 mL
   PO:
             TF:
                                                                    258 mL
                                                                    333 mL
   IVF:
                                                                  2,077 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  2,152 mL
                                                                  1,015 mL
   Urine:
                                                                  1,652 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,232 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 646 (509 - 762) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   323 K/uL
   137 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.0 mEq/L
   7 mg/dL
   106 mEq/L
   144 mEq/L
   25.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2118-4-29**]  04:30 AM
                             [**2118-4-29**]  02:51 PM
                             [**2118-4-30**]  04:43 AM
                             [**2118-5-1**]  03:59 AM
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
                             [**2118-5-2**]  09:30 PM
                             [**2118-5-3**]  05:04 AM
   WBC
   9.6
   7.9
   6.8
   6.6
   5.7
   Hct
   27.2
   24.9
   26.2
   25.0
   25.8
   25.4
   Plt
   [**Telephone/Fax (3) 12737**]49
   323
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.6
   0.5
   0.5
   TCO2
   41
   40
   Glucose
   118
   212
   125
   111
   128
   128
   218
   137
   Other labs: PT / PTT / INR:16.8/76.0/1.5, ALT / AST:39/40, Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:0.9 mmol/L, Albumin:2.8
   g/dL, LDH:238 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pulmonary embolism,
   intraabdominal inflammation, left pleural effusion, pain (L foot,
   abdomen), and obesity.  No current evidence for acute pneumonia.
   Remains hypoxemic, requiring high FiO2 --> hope to work towards 40%
   prior to extubation trial.   Maintain mechanical ventilation, monitor
   ABG, monitor RR, monitor SaO2.  F/U CXR.  Daily wake up, monitor RSBI.
   [**Month (only) 8**] be close to extubation trial, if fails
 tracheostomy.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Plan repeat imaging today.
   Continue supportive care.  General Surgery following.
   PULMONARY EMBOLISM -- likely responsible for fevers and respiratory
   failure.  Continue iv heparin
   FEVERS -- persistent.  Attributed to panreatitis (necrosis),
   pancreatitic pseudocyst, bacteremia (strept), UTI (Klebsiella), and
   pulmonary embolism.  Monitor.  Currently on no antimicrobials.
   SEDATION -- optimizing.  Limit medications, allow to wake more.
   HYPERNATREMIA -- Resolved.
   HYPOKALEMIA -- replete to K >4.0
   NUTRITIONAL SUPPORT -- would initiate enteral feedings via post-pyloric
   tube.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- Fracture by radiographs.  Orthopedic consult
   recommended boot in place.
   EtOH ABUSE -- chronic.  Remains on benzodiazepines.  Beyond window for
   DTs.
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2118-5-3**] 07:50 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-05-04 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2118-5-4**] 04:40 AM
 FEVER - 101.4
F - [**2118-5-3**] 08:00 AM
   - d/c seroquel / trazodone, restarted haldol
   - put in a peripheral IV but only one, kept PICC
   - Extubated overnight, patient is flying well.
   - oxycodone started for pain managment
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2118-5-4**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-4**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.8
   HR: 81 (63 - 90) bpm
   BP: 165/102(116) {134/76(88) - 176/110(119)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  2,729 mL
                                                                  1,026 mL
   PO:
                                                                    700 mL
             TF:
                                                                    724 mL
                                                                    197 mL
   IVF:
                                                                  1,164 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    465 mL
   Urine:
                                                                  1,210 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 806 (381 - 942) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.45/50/85.[**Numeric Identifier 299**]/34/8
   Ve: 10.4 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: NAD
   CV: tachycardic, reg rhythm
   RESP: CTA on anterior exam
   Labs / Radiology
   294 K/uL
   8.6 g/dL
   123 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   7 mg/dL
   100 mEq/L
   141 mEq/L
   27.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2118-4-30**]  04:43 AM
                             [**2118-5-1**]  03:59 AM
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
                             [**2118-5-2**]  09:30 PM
                             [**2118-5-3**]  05:04 AM
                             [**2118-5-3**]  04:06 PM
                             [**2118-5-4**]  05:00 AM
   WBC
   7.9
   6.8
   6.6
   5.7
   4.9
   Hct
   26.2
   25.0
   25.8
   25.4
   27.5
   Plt
   [**Telephone/Fax (3) 12749**]23
   294
   Cr
   0.6
   0.5
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   41
   40
   36
   Glucose
   125
   111
   128
   128
   218
   137
   123
   Other labs: PT / PTT / INR:14.8/59.5/1.3, ALT / AST:39/40, Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:0.7 mmol/L, Albumin:2.8
   g/dL, LDH:238 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   CTA abd/pel (wet read):
   STRANDING AND FLUID SURROUNDING PANCREAS C/W HISTORY OF PANCREATITIS.
   HYPODENSITY IN THE PANCREATIC HEAD CONCERNING FOR NECROSIS. 6.7 X 9.8
   CM FLUID
   COLLECTION ANT TO PANCREAS, NOT ENLARGED C/T PRIOR, LIKELY REPRESENTING
   A
   PSEUDOCYST. ATTENUATION OF SPLENIC VEIN WHICH REMAINS PATENT. SMV
   PATENT.
   SPLENOMEGALY. ENLARGEMENT OF SMALL LEFT PLEURAL EFFUSION WITH
   ASSOCIATED
   BIBASILAR AIRSPACE DISEASE, [**Month (only) **] REFLECT ATELECTASIS
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # respiratory failure - Barriers to extubation are likely sedation, PE,
   effusions, and restrictive physiology (elevated diaphragm, pseudocyst).
   Pl effusion evaluated on [**5-2**] and not found to be very large.
   - s/p self-extubation this morning, doing well, continue to monitor
   - will use seroquel and trazodone at night, haldol TID, check EKG to
   evaluate QT syndrome
   - d/c heparin (had been started for PE) for potential procedures;
   additionally, no improvement in oxygenation since starting heparin gtt
   - assess L pleural effusion for possible thoracentesis
   .
   # fevers - Thought to be [**2-15**] pancreatic necrosis vs. drug fever.
   Exhaustive w/u at OSH (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage) was
   negative for infection.  ?infected pseudocyst that has yet to be
   drained. Other noninfectious possibilities: malignancy (h/o renal mass,
   though not commented on on abdominal CT scan), drug fever, inflammatory
   condition.
   - d/ced IV meropenem
   - continue to follow cultures
   - f/u Surgery recs
   - PICC eval, if PICC can be replaced consider pulling and culturing tip
   .
   # acute pancreatitis: Lipase now 16. Abdomen is soft on exam.  As seen
   on CT torso, large pseudocyst compressing stomach + evidence of
   pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - pt reports feeling hunger this AM, will advance diet to clears after
   obtaining swallow evaluation
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   - platelets trending down, continue to monitor
   .
   #. Hypertension
   - Captopril 25 mg PO TID
   - Labetalol 10 mg IV 1x dose
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   - PT consult
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2118-5-4**] 06:43 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-05-04 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated this AM, remains extubated.
   Self-d/c'd feeding tube this AM.
   Communicative.  Apporpriate.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 3,272 units/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2118-5-4**] 07:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-5-4**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 98 (63 - 102) bpm
   BP: 197/106(126) {137/79(92) - 198/155(161)} mmHg
   RR: 24 (11 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  2,729 mL
                                                                  1,213 mL
   PO:
                                                                    700 mL
             TF:
                                                                    724 mL
                                                                    210 mL
   IVF:
                                                                  1,164 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                  1,005 mL
   Urine:
                                                                  1,210 mL
                                                                  1,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 806 (381 - 942) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.45/47/72/34/7
   Ve: 10.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   294 K/uL
   123 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.7 mEq/L
   7 mg/dL
   100 mEq/L
   141 mEq/L
   27.5 %
   4.9 K/uL
        [image002.jpg]
                             [**2118-5-1**]  03:59 AM
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
                             [**2118-5-2**]  09:30 PM
                             [**2118-5-3**]  05:04 AM
                             [**2118-5-3**]  04:06 PM
                             [**2118-5-4**]  05:00 AM
                             [**2118-5-4**]  08:06 AM
   WBC
   6.8
   6.6
   5.7
   4.9
   Hct
   25.0
   25.8
   25.4
   27.5
   Plt
   [**Telephone/Fax (3) 12755**]94
   Cr
   0.5
   0.5
   0.6
   0.5
   0.5
   0.6
   TCO2
   41
   40
   36
   34
   Glucose
   111
   128
   128
   [**Telephone/Fax (3) 12756**]
   Other labs: PT / PTT / INR:14.8/59.5/1.3, ALT / AST:39/40, Alk Phos / T
   Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:1.1 mmol/L, Albumin:2.8
   g/dL, LDH:238 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- multifactorial, including pulmonary embolism,
   intraabdominal inflammation, left pleural effusion, pain (L foot,
   abdomen), and obesity.  No current evidence for acute pneumonia.
   Remains hypoxemic, requiring high FiO2 --> hope to work towards 40%
   prior to extubation trial.   Maintain mechanical ventilation, monitor
   ABG, monitor RR, monitor SaO2.  F/U CXR.  Daily wake up, monitor RSBI.
   [**Month (only) 8**] be close to extubation trial, if fails
 tracheostomy.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Plan repeat imaging today.
   Continue supportive care.  General Surgery following.
   PULMONARY EMBOLISM -- likely responsible for fevers and respiratory
   failure.  Continue iv heparin --> hope to
   FEVERS -- persistent.  Attributed to panreatitis (necrosis),
   pancreatitic pseudocyst, bacteremia (strept), UTI (Klebsiella), and
   pulmonary embolism.  Monitor.  Currently on no antimicrobials.
   SEDATION -- optimized.  Now off sedation.  Monitor for withdrawal.
   HYPERTENSION -- possibly related to aggitation, fevers, possible
   underlying psychiatric medications.  Continue to monitor.
   HYPOKALEMIA -- replete to K >4.0.
   NUTRITIONAL SUPPORT -- Tolerating enteral feedings via post-pyloric
   tube --> now d/c'd.  Discuss with Gen [**Doctor First Name **] if OK to begin clear
   liquids.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- Fracture by radiographs.  Orthopedic consult
   recommended boot in place.
   EtOH ABUSE -- chronic.  Remains on benzodiazepines.  Beyond window for
   DTs.
   ACTIVITY -- PT consult.
   PSYCHIATRIC DISORDER -- hope to resume usual medications.  Consider
   Psychiatric consultation to assist.
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2118-05-05 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2118-5-4**] 10:59 AM
   - Started Seroquel, Trazodone qHS
   - DC'd foley, rectal tube
   - Speech and Swallow: possibly aspirating --> Video swallow
   - VERY hypertensive - 200/110 - responded to labetalol; increased
   captopril to 37.5; gave 20 IV labatelol with good effect
   - Surgery says: follow up with [**Doctor Last Name 2406**] outpatient. No surgery this
   admission
   - Started Coumadin 5 mg; INR is 2.2 this AM with PTT > 150 --> dc'd
   heparin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2118-5-4**] 07:48 AM
   Hydralazine - [**2118-5-4**] 04:13 PM
   Labetalol - [**2118-5-4**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-5-5**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 92 (79 - 126) bpm
   BP: 148/80(95) {131/78(91) - 204/155(161)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,644 mL
                                                                    301 mL
   PO:
             TF:
                                                                    210 mL
   IVF:
                                                                    894 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    305 mL
   Urine:
                                                                  2,175 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -531 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.45/47/72/21/7
   PaO2 / FiO2: 180
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   320 K/uL
   8.8 g/dL
   339 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.1 mEq/L
   6 mg/dL
   90 mEq/L
   130 mEq/L
   26.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
                             [**2118-5-2**]  09:30 PM
                             [**2118-5-3**]  05:04 AM
                             [**2118-5-3**]  04:06 PM
                             [**2118-5-4**]  05:00 AM
                             [**2118-5-4**]  08:06 AM
                             [**2118-5-5**]  04:19 AM
   WBC
   6.6
   5.7
   4.9
   7.3
   Hct
   25.8
   25.4
   27.5
   26.8
   Plt
   349
   323
   294
   320
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   0.5
   TCO2
   41
   40
   36
   34
   Glucose
   128
   128
   218
   137
   123
   339
   Other labs: PT / PTT / INR:23.1/150.0/2.2, ALT / AST:39/40, Alk Phos /
   T Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:238 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   48 yo M with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   .
   # hyponatremia: likely hypovolemic, giving IV LR for repletion, recheck
   lytes later today.
   .
   # respiratory failure
 Now s/p extubation this AM, doing well on NC.
   - continue to assess
   - continue heparin gtt
   - for agitation, will use seroquel and trazodone at night, haldol TID,
   check EKG to evaluate QT syndrome
   .
   # fevers - Thought to be [**2-15**] pancreatic necrosis vs. drug fever.
   Exhaustive w/u at OSH (BCx, UCx, [**Female First Name (un) **], LP, pseudocyst drainage) was
   negative for infection.  ?infected pseudocyst that has yet to be
   drained. Other noninfectious possibilities: malignancy (h/o renal mass,
   though not commented on on abdominal CT scan), drug fever, inflammatory
   condition.
   - not on IV abx
   - continue to follow cultures ([**4-26**]
 came back with H. Flu sparse
   growth)
   - f/u Surgery recs
   .
   # acute pancreatitis: Abdomen is soft on exam.  As seen on CT torso,
   large pseudocyst compressing stomach + evidence of pancreatic necrosis.
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - pt reports feeling hunger this AM, will advance diet to clears after
   obtaining swallow evaluation if OK with [**Doctor First Name 91**]
   - monitor hct for hemorrhagic conversion
   .
   # PE
 as seen on CT torso.  Patient
s oxygenation remains stable on
   minimal PEEP on vent.
   - started heparin gtt on [**4-26**]
   - discuss with surgery if it needs to be d/ced for potential procedures
   in the future, or whether we can transition to coumadin
   - platelets trending down, continue to monitor
   .
   #. Hypertension
   - Captopril 25 mg PO TID
   - Labetalol 10 mg IV 1x dose
   .
   # Chronic alcohol abuse: Hospitalized for >2 weeks, outside of the
   window for withdrawal
   - On Midazolam drip; wean sedation as part of weaning off vent
   - As we wean versed, consider adding librium as patient known to
   withdraw and on benzo's for 2+ weeks
   .
   # s/p L metatarsal fx
 Continue fracture boot.
   - f/u Ortho recs
   - PT consult
   .
   FEN: No IVFs, replete electrolytes, NPO
   Prophylaxis: therapeutic heparin, PPI
   Access: peripherals, R power PICC
   Code:  Full
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-05-05 11:22:00 Physician Attending Progress Note
Chief Complaint: Acute pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.
   BP better controlled.
   Speech & swallow exam improved today --> plan to advance diet.
   Up in chair this AM.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2118-5-4**] 04:13 PM
   Labetalol - [**2118-5-4**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2118-5-5**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 82 (77 - 126) bpm
   BP: 116/70(81) {116/62(74) - 204/147(151)} mmHg
   RR: 15 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 152.4 kg (admission): 147.3 kg
             Total In:
                                                                  1,644 mL
                                                                    475 mL
   PO:
             TF:
                                                                    210 mL
   IVF:
                                                                    894 mL
                                                                    475 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    430 mL
   Urine:
                                                                  2,175 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -531 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   320 K/uL
   339 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.1 mEq/L
   6 mg/dL
   90 mEq/L
   130 mEq/L
   26.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2118-5-1**]  10:14 AM
                             [**2118-5-1**]  01:45 PM
                             [**2118-5-1**]  04:33 PM
                             [**2118-5-2**]  04:00 AM
                             [**2118-5-2**]  09:30 PM
                             [**2118-5-3**]  05:04 AM
                             [**2118-5-3**]  04:06 PM
                             [**2118-5-4**]  05:00 AM
                             [**2118-5-4**]  08:06 AM
                             [**2118-5-5**]  04:19 AM
   WBC
   6.6
   5.7
   4.9
   7.3
   Hct
   25.8
   25.4
   27.5
   26.8
   Plt
   349
   323
   294
   320
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   0.5
   TCO2
   41
   40
   36
   34
   Glucose
   128
   128
   218
   137
   123
   339
   Other labs: PT / PTT / INR:23.1/150.0/2.2, ALT / AST:39/40, Alk Phos /
   T Bili:99/0.5, Amylase / Lipase:/16, Lactic Acid:1.1 mmol/L,
   Albumin:2.8 g/dL, LDH:238 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   48 yom with chronic EtOH abuse who is being transferred from [**Hospital1 **] with diagnosis of acute pancreatitis, persistent fevers, and
   respiratory failure.
   RESPIRATORY FAILURE -- Resolved.  Tolerated extubation.   Monitor RR,
   monitor SaO2.  F/U CXR.
   ACUTE PANCREATITIS -- clinical improvement, labs improved, but with
   radiographic evidence for pseudocyst.  Continue supportive care.  Will
   require follow up with General Surgery in future.
   PULMONARY EMBOLISM -- likely responsible for fevers and respiratory
   failure.  Continue iv heparin --> hope to transition to coumadin.
   FEVERS -- Resolved.   Attributed to panreatitis (necrosis),
   pancreatitic pseudocyst, bacteremia (strept), UTI (Klebsiella), and
   pulmonary embolism.  Monitor.  Currently on no antimicrobials.
   SEDATION -- optimized.  Now off sedation.  Monitor for withdrawal.
   HYPERTENSION -- possibly related to aggitation, fevers, possible
   underlying psychiatric medications.  Much improved with pharmacological
   agents.  Continue to monitor.
   HYPOKALEMIA -- replete to K >4.0.  Monitor values closely (repeat this
   AM labs).
   NUTRITIONAL SUPPORT -- Tolerating enteral feedings via post-pyloric
   tube --> now d/c'd.  Discuss with Gen [**Doctor First Name **] if OK to begin clear
   liquids.
   FLUIDS -- desire net negative fluid balance.  Plan net negative balance
   over net 24 hrs, if tolerates.
   LEFT FOOT TRAUMA -- Fracture by radiographs.  Orthopedic consult
   recommended boot --> in place.
   EtOH ABUSE -- chronic.  Remains on benzodiazepines.  Beyond window for
   DTs.
   ACTIVITY -- PT consult.
   PSYCHIATRIC DISORDER -- Resume usual medications.  Consider Psychiatric
   consultation to assist.
   Communication:Sister - [**Name (NI) 166**] [**Name (NI) 12575**] cell [**Telephone/Fax (1) 12577**], [**Telephone/Fax (1) 12578**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2118-4-25**] 10:03 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill